US06127341
(2S)-6-Acetylamino-2-(tert-butoxycarbonylamino)hexanoic acid (Purchased at Bachem, 5.0 g, 17.3 mmol) was dissolved in dichloromethane (100 ml) and N,N-dimethylformamide (50 ml). 1-Hydroxybenzotriazole hydrate (2.65 g, 17.3 mmol) was added. The solution was cooled to 0° C. N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride (3.32 g, 17.3 mmol) was added. The reaction mixture was stirred for 20 min at 0° C. A 33% solution or dimethylamine in methanol (16.4 ml, 121 mmol) was added. The reaction mixture was stirred for 16 h, while it was warming up to room temperature. It was diluted with ethyl acetate (250 ml) and washed with a 10% aqueous solution of sodium hydrogensulfate (200 ml). The aqueous phase was extracted with ethyl acetate (2×100 ml). The combined organic layers were washed with a saturated aqueous solution of sodium hydrogen carbonate (200 ml) and dried over magnesium sulfate. The solvent was removed. The crude product was purified by flash chromatography on silica (120 g), using dichloromethane/methanol (10:1) as eluent to give 3.00 g of ((1S)-5-acetylamino-1-(dimethylcarbamoyl)pentyl)carbamic acid tert-butyl ester.

reactant | (2S)-6-Acetylamino-2-(tert-butoxycarbonylamino)hexanoic acid | 17.3 mmol, 5.0 g | C(C)(=O)NCCCC[C@@H](C(=O)O)NC(=O)OC(C)(C)C | C13H24N2O5
reactant | 1-Hydroxybenzotriazole hydrate | 17.3 mmol, 2.65 g | O.ON1N=NC2=C1C=CC=C2
reactant | N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride | 17.3 mmol, 3.32 g | Cl.CN(CCCN=C=NCC)C
reactant | dimethylamine | CNC | C2H7N
reactant | methanol | 121 mmol, 16.4 ml | CO | CH4O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
product | ((1S)-5-acetylamino-1-(dimethylcarbamoyl)pentyl)carbamic acid tert-butyl ester | 3.00 g | C(C)(C)(C)OC(N[C@@H](CCCCNC(C)=O)C(N(C)C)=O)=O | C15H29N3O4
